US07759344B2
5-bromoisoquinoline-N-oxide.
To a solution of 5-bromoisoquinoline (10.65 g, 51.19 mmol) in CH2Cl2 (250 mL), m-CPBA (9.717 g, 56.31 mmol) was added and the mixture refluxed for 20 h and allowed to cool to rt. The mixture was washed with sat Na2SSO3 (75 mL), then 3×1N NaOH, then brine. The organic layer was dried w/Na2SO4, filtered and evaporated. The residue was crystallized from CH2Cl2: Et2O to yield the title compound as a white fluffy solid (4.58 g). MS (ESI pos. ion) m/z: 224 (MH+). Calc'd exact mass for C9H5BrNO: 224.

reactant | 5-bromoisoquinoline | 51.19 mmol, 10.65 g | BrC1=C2C=CN=CC2=CC=C1 | C9H6BrN
reactant | m-CPBA | 56.31 mmol, 9.717 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
solvent | CH2Cl2 | 250 mL | C(Cl)Cl | CH2Cl2
product | 5-bromoisoquinoline-N-oxide | BrC1=C2C=C[N+](=CC2=CC=C1)[O-] | C9H6BrNO
